US05663053
A mixture of 2,4,5-triphenylimidazole (11.5 g), 1,7-dibromo-heptane (50 g) and potassium carbonate (27 g) in dry butanone (250 ml) was heated at reflux for 20 hours. The mixture was filtered and the flitrate evaporated to an oil. Chromatography on silica gel (hexane/ethyl acetate) and recrystallisation from hexane gave 1-(7-bromoheptyl)-2,4,5-triphenylimidazole (11.3 g, 61.4%) as a colourless solid, m.p. 69°-71°.

reactant | 2,4,5-triphenylimidazole | 11.5 g | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | 1,7-dibromo-heptane | 50 g | BrCCCCCCCBr | C7H14Br2
reactant | potassium carbonate | 27 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 250 ml | CC(CC)=O | C4H8O
product | 1-(7-bromoheptyl)-2,4,5-triphenylimidazole | 11.3 g, 61.4% | BrCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H29BrN2
